US08431695B2
Step 1: Preparation of 6-bromo-2-(methylthio)-1,3-benzothiazole
To the solution of 2-(methylthio)-1,3-benzothiazole (5.00 g, 27.58 mmol) in CHCl3 (85 mL) in a NaCl-ice water bath, bromine (4.24 mL, 82.8 mmol) was slowly added dropwise, followed by acetic acid (30 mL). The mixture was stirred at rt overnight. The white solid was filtered and then dissolved in EtOAc (200 mL). Saturated, aqueous Na2CO3 (200 mL) was added and the organic layer was separated, dried over MgSO4 and concentrated to dryness. Desired product (5.0 g, 70%) was obtained. 1H NMR (400 MHz, DMSO-d6) δ8.30 (s, 1H), 7.76 (d, 1H), 7.59 (d, 1H), 2.79 (s, 3H); LC-MS m/z [M+H]+ 260.2 & 262.1, RT 3.65 min.

reactant | 2-(methylthio)-1,3-benzothiazole | 27.58 mmol, 5.00 g | CSC=1SC2=C(N1)C=CC=C2 | C8H7NS2
reactant | bromine | 82.8 mmol, 4.24 mL | BrBr | Br2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 85 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-2-(methylthio)-1,3-benzothiazole | 5.0 g, 70% | BrC1=CC2=C(N=C(S2)SC)C=C1 | C8H6BrNS2
